US05593993
N-[2-(3-chlorophenyl)ethyl]-N'-[2-benzothiazolyl]thiourea
A solution of 1-[(2-benzothiazolyl)thiocarbamoyl]imidazole (1.04 g, 4 mmol) and 2-(3-chlorophenyl)ethylamine (0.63 g, 4 retool) in N,N-dimethylformamide (15 mL) was stirred at 100° C. for 1 h, the reaction was cooled to room temperature and the solvent removed in vacuo. The residue was crystallized from ethyl acetate to provide 0.88 g (63%) of the title product:

reactant | 1-[(2-benzothiazolyl)thiocarbamoyl]imidazole | 4 mmol, 1.04 g | S1C(=NC2=C1C=CC=C2)NC(=S)N2C=NC=C2 | C11H8N4S2
reactant | 2-(3-chlorophenyl)ethylamine | 0.63 g | ClC=1C=C(C=CC1)CCN | C8H10ClN
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-[2-(3-chlorophenyl)ethyl]-N'-[2-benzothiazolyl]thiourea | 0.88 g, 63% | ClC=1C=C(C=CC1)CCNC(=S)NC=1SC2=C(N1)C=CC=C2 | C16H14ClN3S2
